US05981544
1.4 g (15 mmol, 2 eq) of 2-aminopyridine are added to a suspension of 2.5 g (7.5 mmol, 1.0 eq) of 2,3-dibromo-1,4-dihydro-1,4-dioxo-6-fluoronaphthalene in 50 mL of ethanol. The reaction mixture is brought to reflux of the solvent for 20 h, then brought to ambient temperature. The tan precipitate formed is filtered and washed profusely with ethanol. The solid obtained is purified by flash chromatography on a column of silica gel (support: silica 6-35 mm; (10 cm φ, 25 cm h; eluant: dichloromethane/ethyl acetate, 70/30). 494 mg of 6,11-dihydro-6,11-dioxo-8-fluoronaphtho[2',3':4,5]imidazo[1,2-a]pyridine or 6,11-dihydro-6,11-dioxo-9-fluoronaphtho[2',3':4,5]imidazo-[1,2-a] pyridine or 5,6-dihydro-5,6-dioxo-3-fluoronaphtho[1',2':4,5] imidazo[1,2-a]pyridine are obtained in the form of yellow crystals.

reactant | 2-aminopyridine | 15 mmol, 1.4 g, 2 eq | NC1=NC=CC=C1 | C5H6N2
reactant | 2,3-dibromo-1,4-dihydro-1,4-dioxo-6-fluoronaphthalene | 7.5 mmol, 2.5 g, 1.0 eq | BrC=1C(C2=CC=C(C=C2C(C1Br)=O)F)=O | C10H3Br2FO2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 6,11-dihydro-6,11-dioxo-8-fluoronaphtho[2',3':4,5]imidazo[1,2-a]pyridine | 494 mg, Yield: 42% | O=C1C=2C=C(C=CC2C(C2=C1N=C1N2C=CC=C1)=O)F | C15H7FN2O2
